US04863958
A solution of 2-(p-methoxybenzoyl)-3-methyl-6-benzyloxy-7-propylbenzofuran (1.04 gm, 2.5 mmoles) in ethanol (100 mL) was hydrogenated in a Parr hydrogenator in the presence of 10% palladium on charcoal for a period of 24 hours. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica gel and eluted with 25% ethylacetate in hexane to yield 110 mg of 2-(p-methoxybenzyl)-3-methyl-6-hydroxy-7-propylbenzofuran.

reactant | 2-(p-methoxybenzoyl)-3-methyl-6-benzyloxy-7-propylbenzofuran | 2.5 mmoles, 1.04 gm | COC1=CC=C(C(=O)C=2OC3=C(C2C)C=CC(=C3CCC)OCC3=CC=CC=C3)C=C1 | C27H26O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(p-methoxybenzyl)-3-methyl-6-hydroxy-7-propylbenzofuran | 110 mg | COC1=CC=C(CC=2OC3=C(C2C)C=CC(=C3CCC)O)C=C1 | C20H22O3
